************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: inv8_fL
* View Name:     schematic
* Netlisted on:  Jun 25 17:00:14 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Si3
* Cell Name:    IN2
* View Name:    schematic
************************************************************************

.SUBCKT IN2 A Out VDD VSS
*.PININFO A:I Out:O VDD:B VSS:B
MM34 Out A VSS VSS nmos1v2hvt W=600n L=180n m=1 nf=1
MM36 Out A VDD VDD pmos1v2hvt W=940n L=180n m=1 nf=1
.ENDS

************************************************************************
* Library Name: REF_GEN
* Cell Name:    inv8_fL
* View Name:    schematic
************************************************************************

.SUBCKT inv8_fL GNDA IN0 IN1 IN2 IN3 IN4 IN5 IN6 IN7 OUT0 OUT1 OUT2 OUT3 OUT4 
+ OUT5 OUT6 OUT7 VDDA
*.PININFO GNDA:B IN0:B IN1:B IN2:B IN3:B IN4:B IN5:B IN6:B IN7:B OUT0:B OUT1:B 
*.PININFO OUT2:B OUT3:B OUT4:B OUT5:B OUT6:B OUT7:B VDDA:B
XI7 IN4 OUT4 VDDA GNDA / IN2
XI6 IN6 OUT6 VDDA GNDA / IN2
XI5 IN7 OUT7 VDDA GNDA / IN2
XI4 IN5 OUT5 VDDA GNDA / IN2
XI3 IN2 OUT2 VDDA GNDA / IN2
XI2 IN3 OUT3 VDDA GNDA / IN2
XI1 IN1 OUT1 VDDA GNDA / IN2
XI0 IN0 OUT0 VDDA GNDA / IN2
.ENDS

