************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: mux2_1_fL
* View Name:     schematic
* Netlisted on:  Jun 15 16:02:40 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: REF_GEN
* Cell Name:    mux2_1_fL
* View Name:    schematic
************************************************************************

.SUBCKT mux2_1_fL COM GNDA IN0 IN1 S VDDA
*.PININFO COM:B GNDA:B IN0:B IN1:B S:B VDDA:B
MM49 SN S GNDA GNDA nmos1v2hvt W=1u L=1u m=1 nf=1
MM2 IN1 S COM GNDA nmos1v2hvt W=2u L=1u m=1 nf=1
MM1 IN0 SN COM GNDA nmos1v2hvt W=2u L=1u m=1 nf=1
MM0 COM S IN0 VDDA pmos1v2hvt W=4u L=1u m=1 nf=1
MM50 SN S VDDA VDDA pmos1v2hvt W=2u L=1u m=1 nf=1
MM3 COM SN IN1 VDDA pmos1v2hvt W=4u L=1u m=1 nf=1
.ENDS

